US07919468B2
N-Boc-Tyr(Bn)-Asn-OH:
Same procedure as above with N-Boc-Tyr(Bn)-Asn-OMe (1.035 g, 2.072 mmol), aqueous LiOH (1 M, 2.2 mL, 2.2 mmol) in THF (15 mL). A beige solid was obtained (1.03 g, 100%) which was used in the next step without further purification. 1H NMR (300 MHz, CD3OD) δ 1.35 (s, 9H, (CH3)3), 2.73-3.13 (m, 4H, CH2), 4.29 (m, 1H, CHα), 4.72 (m, 1H, CHα), 5.06 (s, 2H, CH2 (Bn)), 6.92 (d, J=5 Hz, 2 aromatic H), 7.17 (d, J=5 Hz, 2 aromatic H), 7.33-7.44 (m, 5 aromatic H). 13C NMR (75 MHz, CD3OD) δ 28.7 ((CH3)3), 37.7, 38.3 (CH2 Tyr and Asn), 50.4 (CHα Asn), 57.5 (CHα Tyr), 71 (CH2 (Bn)), 80.7 (C(CH3)3), 116.0, 128.5, 128.8, 129.5, 130.9, 131.5, 131.8, 138.8 (11 aromatic C), 157.6, 159.2 (Car-O, CO carbamate), 174.2, 174.4, 175.0 (CO acid, CO amide).

reactant | N-Boc-Tyr(Bn)-Asn-OMe | 2.072 mmol, 1.035 g | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)OC)C(=O)OC(C)(C)C | C26H33N3O7
reactant | LiOH | 2.2 mmol, 1 M, 2.2 mL | [Li+].[OH-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-Boc-Tyr(Bn)-Asn-OH | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)O)C(=O)OC(C)(C)C | C25H31N3O7
